US07179823B1
Sodium hydride (60%, oily, 0.36 g) was added to a mixture of methyl 4-phenylpyrrole-3-carboxylate (1.81 g), 6-benzyloxy-2-chloromethylnaphthalene (2.54 g) and N,N-dimethylformamide (35 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatograpy, and methyl 1-(6-benzyloxy-2-naphthylmethyl)-4-phenylpyrrole-3-carboxylate (3.20 g, yield: 80%) was obtained as colorless crystals from the fraction eluted with tetrahydrofuran-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 109–110° C.

reactant | Sodium hydride | 0.36 g | [H-].[Na+]
reactant | methyl 4-phenylpyrrole-3-carboxylate | 1.81 g | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | 6-benzyloxy-2-chloromethylnaphthalene | 2.54 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)CCl | C18H15ClO
reactant | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-(6-benzyloxy-2-naphthylmethyl)-4-phenylpyrrole-3-carboxylate | 3.20 g, yield: 80% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)CN1C=C(C(=C1)C1=CC=CC=C1)C(=O)OC | C30H25NO3
